US08309567B2
A mixture of 1-(4-chlorocinnamyl)-4-[1-methoxy-methylidene]-3-methyl-piperidine (1.25 g) and 4-chlorophenylhydrazine hydrochloride (0.85 g) in chloroform (43 ml) was treated with trifluoroacetic acid (4.3 ml) and heated at reflux under argon for 12 hours. The reaction mixture was cooled to room temperature, triethylsilane (3.1 ml) was added and the solution refluxed for 2 hours. The reaction mixture was cooled to room temperature, diluted with dichloromethane, neutralised with aqueous ammonium hydroxide, washed with brine, dried (sodium sulphate) and concentrated. The dark residue was purified by silica gel chromatography (cyclohexane:ethyl acetate 1:1+0.5% triethylamine) to afford 5-chloro-1′-[trans-3-(4-chlorophenyl)allyl]-3′-methyl-spiro[indoline-3,4′-piperidine] (1.63 g). 1H NMR (600 MHz, CDCl3) 0.69 (d, J=9 Hz, 3H), 1.89 (m, 2H), 2.0 (m, 3H), 2.86 (dd, 1H), 2.95 (m, 1H), 3.17 (d, J=7.2 Hz, 2H), 3.31 (d, J=12 Hz, 1H), 3.58 (d, J=12 Hz, 1H), 3.65 (m, 1H), 6.30 (dt, J=7.2, 18.0 Hz, 1H), 6.49 (d, J=8.0 Hz, 1H), 6.50 (d, J=7.0 Hz, 1H), 2H), 6.94 (d, J=0.9 Hz, 1H), 6.97 (dd, J=7.0, 0.9 Hz, 1H), 7.25-7.33 (m, 4H); MS (ES+) 387/389 (M+H+).

reactant | 1-(4-chlorocinnamyl)-4-[1-methoxy-methylidene]-3-methyl-piperidine | 1.25 g | ClC1=CC=C(C=CCN2CC(C(CC2)=COC)C)C=C1 | C17H22ClNO
reactant | 4-chlorophenylhydrazine hydrochloride | 0.85 g | Cl.ClC1=CC=C(C=C1)NN
reactant | trifluoroacetic acid | 4.3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 3.1 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | chloroform | 43 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-chloro-1′-[trans-3-(4-chlorophenyl)allyl]-3′-methyl-spiro[indoline-3,4′-piperidine] | 1.63 g | ClC=1C=C2C(=CC1)NCC21C(CN(CC1)C\C=C\C1=CC=C(C=C1)Cl)C | C22H24Cl2N2
